US08278345B2
Compound 376: 4-Acetyl-1-(1H-benzoimidazol-5-yl)-5-benzo[c][1,2,5]thiadiazol-5-yl-3-hydroxy-1,5-dihydro-pyrrol-2-one
1H-Benzoimidazol-5-ylamine (1 mmol) and Benzo[1,2,5]thiadiazole-5-carbaldehyde (1 mmol) were added to ethanol (5 ml). After 30 min 2,4-Dioxo-pentanoic acid ethyl ester (1 mmol) was added. The reaction was heated to 50° C. and stirred for 24 h. After evaporation of the solvent the residue was purified with chromatographic methods.

reactant | 1H-Benzoimidazol-5-ylamine | 1 mmol | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | Benzo[1,2,5]thiadiazole-5-carbaldehyde | 1 mmol | N1=C2C(=NS1)C=C(C=C2)C=O | C7H4N2OS
reactant | 2,4-Dioxo-pentanoic acid ethyl ester | 1 mmol | C(C)OC(C(CC(C)=O)=O)=O | C7H10O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-Acetyl-1-(1H-benzoimidazol-5-yl)-5-benzo[c][1,2,5]thiadiazol-5-yl-3-hydroxy-1,5-dihydro-pyrrol-2-one | C(C)(=O)C1=C(C(N(C1C1=CC=2C(=NSN2)C=C1)C1=CC2=C(NC=N2)C=C1)=O)O | C19H13N5O3S
